data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8705,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4[O:1][CH:2]2[CH-:3]CCC3(O)C1C5.N#N.O.[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1646,"CC(=O)O[C:1](C)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,625,"CC1CCCC[C:1]1([N:2]1CCCC1)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1682,"CCOC(O)(CC(C)=O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2377,"CC(=O)O.COC1=CC2=C(C=C1)C=C(C(=O)CC[C:1](C1=CC=CC=C1)=[O:2])C=C2.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7236,"CCOCC.COC1=CC(CC(CCOCC2=CC=CC=C2)OC[O:1]C)=C(OC)C2=CC=CC(OC)=C12.C[O+:2]([B-](F)(F)F)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6099,"C=CC(N(CC)CC)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4784,"[CH3:1][I:2].[Li][NH+](C(C)C)C(C)C.[Li][O:3][C:4](OCC)=[CH:5]C=CC|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1584,"C1=CC=[N+:1]([H:2])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7343,"CC(C)CC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C3CCCCC3)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1713,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C3CCCCC3)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1361,"CC1=C(F)C=C2C(=O)C(C(=O)O)=CN(CN3CCN(CC4=C(C)OC(=O)O4)CC3)C2=C1.CC1CC(O)C23CCCN4CCCC42C(=O)CC3C1O.CC=CC(CC(C)(C)O)N(C)C(C)C1=CC=CC=C1.CCCCCC#CCC=CCCCCC.CCOC(=O)CCCCC=CC(SC1=CC=CC=C1)C1C(O[Si](C)(C)C(C)(C)C)CC(=O)C1CCC(=O)OCC.C[Si](C)(C)C1C=CCC1.ClC1=CC(C(O[O:1][H:2])=[O:3])=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,553,"CC12CCC(=O)C=C1CCC1C2CC[C:1]2(C)C1CC1C[C:2](=[O:3])[C:4]2([O-:5])O1|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7755,"CCOCC.O=S(=O)([O-])O.OC1=CC=C(C[C:1](C2=C(O)C=C(O)C=C2O)=[NH2+:2])C=C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3626,"CCOC(O)(CC1=CC(F)=CC(F)=C1)[OH:1].CC[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3335,"C=C1CC23CC1[C:1](=[O+:2][Al-]([O]C(C)C)([O]C(C)C)[O:3][C:4](C)(C)[H:5])CC2C1(C)CCCC(C)(C(=O)OC)C1C3C(=O)OC.CC(C)O|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5085,"C1=CC=NC=C1.CCC(=O)NC(CC1CCCCC1)(C(=O)CC)C(=O)[O:1][C:2](CC)(OC(=O)CC)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8873,"CC(C)(C)[Si](OCC1OC(C[CH+:1][CH2:2][Si-:3](C)(C)(C)OS(=O)(=O)C(F)(F)F)CC2OC(=O)OC21)(C1=CC=CC=C1)C1=CC=CC=C1.CCO[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,612,"N#CC1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,842,"N#[C-:1].N=C1NC=CC(N)=[N+:2]1[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8543,"C(=NC1CCCCC1)=[N:1]C1CCCCC1.C1=CC=[N+:2]([H:3])C=C1.CC1(C)CCCC2(C)C1C(O[Si](C)(C)C(C)(C)C)C=C(CO[Si](C)(C)C(C)(C)C)C2(O)CO.C[S+](C)[O-].O=C([O-])C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8188,"C1=CC=C(C[NH2:1])C=C1.COC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5898,"CC[CH:1]([CH2:2][H:3])[N+:4](C)(C)C.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3227,"CC(=O)[O-:1].O=C(O)C[NH+:2](C(O)(CC(C(=O)C1=CC=CO1)C1=CC=CC=C1)C1=C2C=CC=CC2=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9042,"O=N[NH+:1](CC1(O)CC2C=CC1O2)[H:2].O=S(=O)([O-])O.[Na+].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9029,"[BH3-][OH:1].[CH2:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4146,"CC(=O)[O:1][H:2].CC(C)(C)CC(=O)CC#N.CC1=CC=C(C(N2CCCCC2)[OH:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5398,"C1=CN=CC(C2=CC3CC(C2)C[NH:1]C3)=C1.O=C[O-].OC[N+:2]1([H:3])CC2C=C(C3=CC=CN=C3)CC(C2)C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1249,"CC[S:1]C1CCC(=O)[CH:2]1[Br:3].[OH-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6751,"CC(C)OC(C)(C)[O+:1](C(C)C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9083,"C#CCCC12C[CH:1]([Si-:2](C)(C)(C)O)[C:3](=[O:4])C=C1CCC2C.CO.[OH][K]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5277,"C=C[C:1](Cl)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2065,"C1=CC=C([CH2:1][Br:2])C=C1.C1OC2OC1C1OC1C2[O-:3].[H][H].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4972,"O=C(C#[C-:1])C1=CC=CC=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,991,"CNC=CC[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,658,"CCCC.CN(C)P(=O)(N(C)C)N(C)C.CN(C)[CH:1]=[O:2].COC1=CC=C(COCCCC#[C-:3])C=C1.[Li+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10105,"COC1=C(Br)C=CC2=C(OC(C)C)C=C(O[CH:1]=[OH+:2])C=C21.O=C(C1=CC(Cl)=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10330,"N#[N+:1][CH2:2][CH:3]1C[CH2:4]1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7415,"CC[OH:1].CNC(=O)CC[C:2](OC)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8984,"BrC1=C(C23CC4CC[C:1]2([OH:2])[C:3]42C=CC=C[C+:4]2N3)C=CC=C1.O=C[O-]|(2, 1);((1, 3), 4)"
train,pmechdb_split_0,0,8710,"C[O:1][H:2].[CH3][Sn]([CH3])([CH3])[C]1=C(C[O-:3])C=CC=C1|(3, 2);((2, 1), 1)"
